US05541032
Preparation of 4-methoxyphenacylpyridinium bromide
The title compound was prepared similarly to Example 1 from 4-methoxyphenacyl bromide and pyridine in a yield of 97%.

reactant | 4-methoxyphenacyl bromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-methoxyphenacylpyridinium bromide | yield of 97% | [Br-].COC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C14H14NO2.BrH/c1-17-13-7-5-12(6-8-13)14(16)11-15-9-3-2-4-10-15;/h2-10H,11H2,1H3;1H/q+1;/p-1
